US04433152
A mixture of 1.5 g of 1-amidino-4-piperidinecarboxylic acid hydrochloride and 8.8 g of bis-(p-chlorophenyl)sulfite was stirred at room temperature for 1 hour in a solution of 14 ml of dry dimethylformamide and 7 ml of dry pyridine. The solvent was removed under reduced pressure, and the residue was washed twice with dry ether. Acetone was added to the residue to give crystals. The crystals were washed with ether and then with ethyl acetate and recrystallized from methanol-ether to obtain 1.62 g (yield: 70.4%) of p-chlorophenyl 1-amidino-4-piperidinecarboxylate hydrochloride as colorless crystals having a melting point of 196° to 198° C.

reactant | 1-amidino-4-piperidinecarboxylic acid hydrochloride | 1.5 g | Cl.C(N)(=N)N1CCC(CC1)C(=O)O
reactant | bis-(p-chlorophenyl)sulfite | 8.8 g | ClC1=CC=C(C=C1)OS(=O)OC1=CC=C(C=C1)Cl | C12H8Cl2O3S
reactant | dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
product | p-chlorophenyl 1-amidino-4-piperidinecarboxylate hydrochloride | 1.62 g, yield: 70.4% | Cl.C(N)(=N)N1CCC(CC1)C(=O)OC1=CC=C(C=C1)Cl | InChI=1S/C13H16ClN3O2.ClH/c14-10-1-3-11(4-2-10)19-12(18)9-5-7-17(8-6-9)13(15)16;/h1-4,9H,5-8H2,(H3,15,16);1H
